US07235581B2
Condensation of (S)-BOC-methionine and 4-(3-fluorobenzyloxy)-phenylamine [Example 3b)] by HBTU yields the (S)-{1-[4-(3-fluoro-benzyloxy)-phenylcarbamoyl]-3-methylsulfanyl-propyl}-carbamic acid tert-butyl ester as a light yellow solid; MS: m/e=449 (M+H)+. The following methylation and cyclisation yields the (S)-{1-[4-(3-fluoro-benzyloxy)-phenyl]-2-oxo-pyrrolidin-3-yl}-carbamic acid tert-butyl ester as a white solid; MS: m/e=401 (M+H)+. The cleavage of the BOC-group yields the (S)-3-amino-1-[4-(3-fluoro-benzyloxy)-phenyl]-pyrrolidin-2-one hydrochloride as a white solid; MS: m/e=301 (M+H)+.

reactant | (S)-BOC-methionine | C(=O)(OC(C)(C)C)N[C@@H](CCSC)C(=O)O | C10H19NO4S
reactant | 4-(3-fluorobenzyloxy)-phenylamine | FC=1C=C(COC2=CC=C(C=C2)N)C=CC1 | C13H12FNO
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
product | (S)-{1-[4-(3-fluoro-benzyloxy)-phenylcarbamoyl]-3-methylsulfanyl-propyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CCSC)C(NC1=CC=C(C=C1)OCC1=CC(=CC=C1)F)=O)=O | C23H29FN2O4S
